Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],7.02932408535
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.3436180387
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9],3.67547430192
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],6.34808561024
[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.92949832616
[H:1][O:2][C@@:3]([H:4])([C:5]1=[C:6]([H:7])[C:8]1[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5][C:8](=[C:6][H:7])[H:9])[C:10]([H:11])([H:12])[H:13],2.0910137679900003
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.84077086054
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:12][H:13],5.25404385381
[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.66442922848
[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.405183146880001
[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.98600167186
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.73399824879
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:3][H:4],4.57894761289
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7][O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:9]([O:8][C:7]#[C:5][H:6])([H:10])[H:11],1.03139574801
[C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:5]#[C:6][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.09208897111
[H:1][C:2]([C:3][C:10]([H:11])([H:12])[H:13])([H:8])[H:9].[H:4][C:5]#[C:6][H:7]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.36298593501
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13].[O:1],5.87442509957
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:13][H:14],1.80919021859
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6],1.03726152597
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.49250756586
[C:8]([H:9])[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.1372103681
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.42880764356
[H:12].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.09765653399
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.88068333862
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],3.9980602941400014
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.9607322658
[H:1]/[C:2]([O:3][O:4])=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1[O:3][O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],0.71697977331
